US09034866B2
A solution of 9-(3-Hydroxy-3-methyl-but-1-ynyl)-4-methoxycarbonylmethyl-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid methyl ester (70 mg, 0.117 mmol) in methanol-ammonia (40 mL) was stirred at room temperature for 2 h. Then the mixture was concentrated to afford crude compound which was purified by flash column chromatography (silica gel, EtOAc in hexane from 10% to 20%) to afford [2-Carbamoyl-9-(3-hydroxy-3-methyl-but-1-ynyl)-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulen-4-yl]-acetic acid methyl ester as light yellow oil. LC-MS (ESI & APCI): 401.4 (M+1).

reactant | 9-(3-Hydroxy-3-methyl-but-1-ynyl)-4-methoxycarbonylmethyl-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid methyl ester | 0.117 mmol, 70 mg | COC(=O)C=1SC=2C(COC3=C(C2N1)C=C(C=C3)C#CC(C)(C)O)CC(=O)OC | C21H21NO6S
reactant | methanol ammonia | 40 mL | CO.N
product | [2-Carbamoyl-9-(3-hydroxy-3-methyl-but-1-ynyl)-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulen-4-yl]-acetic acid methyl ester | COC(CC1COC2=C(C=3N=C(SC13)C(N)=O)C=C(C=C2)C#CC(C)(C)O)=O | C20H20N2O5S
